US04567175
3 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.77 g of acetyl chloride and 20 ml of pyridine are treated in the same manner as described in Preparation 7. The crude product is recrystallized from a mixture of ether and n-hexane. 1.6 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are thereby obtained as colorless needles.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)Cl | C16H14ClNO3S
reactant | acetyl chloride | 0.77 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.6 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1OC(C)=O)=O)C=CC(=C2)Cl | C18H16ClNO4S
